US04122274
3-(1H-Tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one (via acrylate VI)
Aluminum chloride (0.74 g., 5.56 mmoles) was carefully added to tetrahydrofuran (33 ml.) at -20°. Sodium azide (1.08 g., 16.6 mmoles) was then added and the mixture heated under reflux for 30 minutes. After the addition of ethyl 2-cyano-3-(2-pyridylamino)acrylate (1.0 g., 4.6 mmoles) the mixture was again heated under reflux for 18 hours. The mixture was cooled in an ice bath, treated with water (170 ml.) and acidified to pH 2 with 6N hydrochloric acid. The resulting suspension was stirred with cooling for 2 hours and then filtered. The collected solid was recrystallized from N,N-dimethylformamide to give the title compound (0.38 g., 38.5%), m.p. 308°-309° (decomp).

reactant | Aluminum chloride | 5.56 mmoles, 0.74 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | 16.6 mmoles, 1.08 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 2-cyano-3-(2-pyridylamino)acrylate | 4.6 mmoles, 1.0 g | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1 | C11H11N3O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 170 ml | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | 3-(1H-Tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.38 g, 38.5% | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
